US07196104B2
Preparation AZ: Ethyl 2-(phenoxy)thiazole-4-carboxylate
A mixture of the bromothiazole (1.03 g, 4.36 mmol) and phenol (10.0 g, 106 mmol) was stirred at 180° C. for 1 h, cooled to RT, diluted with 100 mL of EtOAc, washed with 1N NaOH (40×3), H2O, and brine, then dried over MgSO4, and concentrated in vacuo to yield a light yellow residue. Purification over silica gel (gradient, 5% to 10% EtOAc/hexanes) provided the title compound. MS m/z: 250 (M+H)++.

reactant | bromothiazole | 4.36 mmol, 1.03 g | BrC=1SC=CN1 | C3H2BrNS
reactant | phenol | 106 mmol, 10.0 g | C1(=CC=CC=C1)O | C6H6O
reactant | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | Ethyl 2-(phenoxy)thiazole-4-carboxylate | O(C1=CC=CC=C1)C=1SC=C(N1)C(=O)OCC | C12H11NO3S
